US06177419B1
23) Preparation of 5-Allyl-2-hydroxy-3-methoxyphenylboronic acid
2-(4-Allyl-2-methoxyphenoxy)tetrahydropyran (2.0 g, 8.05 mmol) was dissolved in dry THF (70 ml) and the solution cooled to −78° C. sec-Butyl lithium (1.3M in hexanes, 7.4 ml, 9.62 mmol) was added dropwise with stirring over 10 minutes, the reaction was stirred at −78° C. for 2 hours. Triisopropoxy borane (3.4 ml, 14.6 mmol) was added and stirring continued for 4hours at −78° C. The reaction was quenched with water, acidified to pH 1 with 2N hydrochloric acid and extracted with ether (2×200 ml). The combined extracts were dried with magnesium sulphate and concentrated under vacuum. The oily solid produced was triturated with cyclohexane and the solid filtered off to give the title compound (41%); MS 207 (M-H)−; HPLC retention time (system 1) 2.73 minutes.

reactant | 2-(4-Allyl-2-methoxyphenoxy)tetrahydropyran | 8.05 mmol, 2.0 g | C(C=C)C1=CC(=C(OC2OCCCC2)C=C1)OC | C15H20O3
reactant | sec-Butyl lithium | 9.62 mmol, 1.3M, 7.4 ml | C(C)(CC)[Li]
reactant | Triisopropoxy borane | 14.6 mmol, 3.4 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 5-Allyl-2-hydroxy-3-methoxyphenylboronic acid | 41% | C(C=C)C=1C=C(C(=C(C1)B(O)O)O)OC | C10H13BO4
